US07105508B1
tert-Butyl [4-(1H-benzimidazol-2-yl)-1,3-thiazol-2-yl]methyl-carbamate (13)
In analogy to the preparation of 8, 1.89 g of a 30% NaOCH3 solution were added to tert-butyl (4-cyano-1,3-thiazol-2-yl)methylcarbamate (2.5 g; 10.45 mmol) in 25 ml of CH3OH, and the mixture was stirred at room temperature for 2 h. Addition of 1.9 g of 1,2-phenylenediamine bishydrochloride was followed by stirring overnight, and then the reaction mixture was added to 100 ml of H2O, and the solid resulting after filtration was dried in vacuo.

reactant | NaOCH3 | O([Na])C
reactant | tert-butyl (4-cyano-1,3-thiazol-2-yl)methylcarbamate | 10.45 mmol, 2.5 g | C(#N)C=1N=C(SC1)CNC(OC(C)(C)C)=O | C10H13N3O2S
reactant | 1,2-phenylenediamine bishydrochloride | 1.9 g | Cl.Cl.C1(=C(C=CC=C1)N)N
reactant | H2O | 100 ml | O | H2O
solvent | CH3OH | 25 ml | CO | CH4O
product | tert-Butyl [4-(1H-benzimidazol-2-yl)-1,3-thiazol-2-yl]methyl-carbamate | N1C(=NC2=C1C=CC=C2)C=2N=C(SC2)CNC(OC(C)(C)C)=O | C16H18N4O2S
